US08012998B2
a) (E)-4-(2,4-Difluoro-phenyl)-but-3-en-2-one
A two necked flask was charged with 2,4-difluorobenzaldehyde (4.0 g, 28.1 mmol) and (2-oxo-propyl)-phosphonic acid dimethyl ester (5.78 g, 33.0 mmol) and cooled down at at 0° C. K2CO3 (7.62 g, 55.1 mmol) in H2O (14 mL) was added dropwise. Stirring was continued over night at RT. The product was extracted with EtOAc, and the organic phase was dried over Na2SO4. Flash chromatography (SiO2, Heptane/EtOAc 1:3) afforded 4.0 g (79%) of the title compound as alight yellow oil.

reactant | 2,4-difluorobenzaldehyde | 28.1 mmol, 4.0 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | (2-oxo-propyl)-phosphonic acid dimethyl ester | 33.0 mmol, 5.78 g | COP(OC)(=O)CC(C)=O | C5H11O4P
reactant | K2CO3 | 55.1 mmol, 7.62 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 14 mL | O | H2O
product | (E)-4-(2,4-Difluoro-phenyl)-but-3-en-2-one | 4.0 g, 79% | FC1=C(C=CC(=C1)F)/C=C/C(C)=O | C10H8F2O
